US08349851B2
To a solution of ethyl 2-(2-carbamoyl-5-chlorophenylamino)-2-oxoacetate (545 mg, 2.02 mmol) and TEA (11 mL, 80 mmol) in DCE (20 mL) was added trimethylsilyl chloride (3.8 mL, 30 mmol) and the solution was stirred at 80° C. for 16 h. The mixture was concentrated under reduced pressure and the residue was partitioned between saturated aq NaHCO3 and DCM (100 mL). The separated aqueous phase was extracted with DCM (2×100 mL) and the combined organic layers were dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with 10-60% EtOAc/hexanes to afford ethyl 7-chloro-4-hydroxyquinazoline-2-carboxylate as a solid (321 mg, 63%). 1H NMR (300 MHz, DMSO-d6) δ 1.36 (t, J=7.06 Hz, 3 H), 4.39 (q, J=7.10 Hz, 2 H), 7.60-7.74 (m, 1 H), 7.85-7.98 (m, 1 H), 8.11-8.23 (m, 1 H), 12.82 (br s, 1 H).

reactant | ethyl 2-(2-carbamoyl-5-chlorophenylamino)-2-oxoacetate | 2.02 mmol, 545 mg | C(N)(=O)C1=C(C=C(C=C1)Cl)NC(C(=O)OCC)=O | C11H11ClN2O4
reactant | trimethylsilyl chloride | 30 mmol, 3.8 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | DCE | 20 mL | ClCCCl | C2H4Cl2
product | ethyl 7-chloro-4-hydroxyquinazoline-2-carboxylate | 321 mg, 63% | ClC1=CC=C2C(=NC(=NC2=C1)C(=O)OCC)O | C11H9ClN2O3
